US07572801B2
In analogy to the procedure described in example 78.1, 2-(3-chloro-4-fluoro-phenyl)-ethanol was reacted with ethyl iodoacetate in the presence of silver trifluoromethanesulfonate and 2,6-di-tert-butylpyridin to give [2-(3-chloro-4-fluoro-phenyl)-ethoxy]-acetic acid ethyl ester as colorless oil. MS: m/e=261.2 [M+H+].

reactant | 2-(3-chloro-4-fluoro-phenyl)-ethanol | ClC=1C=C(C=CC1F)CCO | C8H8ClFO
reactant | ethyl iodoacetate | ICC(=O)OCC | C4H7IO2
reactant | 2,6-di-tert-butylpyridin | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
catalyst | silver trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | [2-(3-chloro-4-fluoro-phenyl)-ethoxy]-acetic acid ethyl ester | C(C)OC(COCCC1=CC(=C(C=C1)F)Cl)=O | C12H14ClFO3
